US07388011B2
B. 1-{3-[4-(1,1-Dioxo-1H-1λ6-benzo[d]isothiazol-3-yl)-piperazin-1-yl]-propyl}-5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine
To a stirred solution of 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde (0.040 g, 0.13 mmol) and 3-piperazin-1-yl-benzo[d]isothiazole 1,1-dioxide (0.050 g, 0.21 mmol) in CH2Cl2 (0.5 mL), glacial AcOH (12 μL, 0.21 mmol) was added and stirred for 15 min at room temperature. NaBH(OAc)3 (0.058 g, 0.27 mmol) was added and stirred under nitrogen overnight. Saturated NaHCO3 (0.5 mL) was then added and stirred for 15 min. The layers separated and the aqueous layer was extracted with CH2Cl2 (0.5 mL). MPLC (silica, 2-15% MeOH/CH2Cl2) afforded the desired product as a white solid (0.048 g, 76%). TLC (silica, 12% MeOH/CH2Cl2): Rf=0.50. MS (electrospray): exact mass calculated for C28H31F3N6O4S2, 636.18; m/z found, 637.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.94 (dd, J=0.8, 7.6 Hz, 1H), 7.86 (d, J=7.8 Hz, 1H), 7.75 (d, J=8.3 Hz, 2H), 7.73-7.63 (m, 2H), 7.68 (d, J=8.3 Hz, 2H), 4.57 (s, 2H), 4.17 (t, J=6.9 Hz, 2H), 4.04 (br s, 4H), 3.69 (t, J=5.7 Hz, 2H), 2.94 (s, 3H), 2.92 (t, J=6.2 Hz, 2H), 2.62 (t, J=5.0 Hz, 4H), 2.44 (t, J=6.6 Hz, 2H), 2.13 (q, J=6.6 Hz, 2H).

reactant | 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde | 0.13 mmol, 0.040 g | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCC=O | C17H18F3N3O3S
reactant | 3-piperazin-1-yl-benzo[d]isothiazole 1,1-dioxide | 0.21 mmol, 0.050 g | N1(CCNCC1)C1=NS(C2=C1C=CC=C2)(=O)=O | C11H13N3O2S
reactant | AcOH | 0.21 mmol, 12 μL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.27 mmol, 0.058 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 0.5 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(1,1-Dioxo-1H-1λ6-benzo[d]isothiazol-3-yl)-piperazin-1-yl]-propyl}-5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 0.048 g, 76% | O=S1(N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCN2N=C(C=1CN(CCC12)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F)=O | C28H31F3N6O4S2
